US05730902
Preparation of (S)-4-(4-(trans-4-n-heptyl-4-silacyclohexyl)phenyl)-1-(1-methyloctyloxy)-2,6-difluorobenzene
The general procedure of Example 1 was repeated using 4-(4-(4-n-heptyl-4-phenyl-4-silacyclohexyl)phenyl) -2,6-difluorophenol and (R)-2-nonanol, thereby obtaining the intended compound.

reactant | 4-(4-(4-n-heptyl-4-phenyl-4-silacyclohexyl)phenyl) -2,6-difluorophenol | C(CCCCCC)[Si]1(CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)O)F)C1=CC=CC=C1 | C30H36F2OSi
reactant | (R)-2-nonanol | C[C@H](CCCCCCC)O | C9H20O
product | (S)-4-(4-(trans-4-n-heptyl-4-silacyclohexyl)phenyl)-1-(1-methyloctyloxy)-2,6-difluorobenzene | C(CCCCCC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)O[C@H](CCCCCCC)C)F | C33H50F2OSi
